### ISSUE TITLE
Protobuf Producer Example

### ISSUE THREAD

**Issue by FredrikBakken** [riferrei/srclient#17]
Hello,

I am currently facing some issues with trying to create a Kafka Producer for passing in Protobuf data. As a reference point, I tried to edit the Producer example application (since I got the AVRO example working without issues) as follows:
```
package main

import (
	"encoding/binary"
	"encoding/json"
	"fmt"
	"io/ioutil"

	"github.com/google/uuid"
	"github.com/riferrei/srclient"
	"gopkg.in/confluentinc/confluent-kafka-go.v1/kafka"
)

type ComplexType struct {
	ID   int    `json:"id"`
	Name string `json:"name"`
}

func main() {

	topic := "myTopic"

	// 1) Create the producer as you would normally do using Confluent's Go client
	p, err := kafka.NewProducer(&kafka.ConfigMap{"bootstrap.servers": "localhost"})
	if err != nil {
		panic(err)
	}
	defer p.Close()

	go func() {
		for event := range p.Events() {
			switch ev := event.(type) {
			case *kafka.Message:
				message := ev
				if ev.TopicPartition.Error != nil {
					fmt.Printf("Error delivering the message '%s'\n", message.Key)
				} else {
					fmt.Printf("Message '%s' delivered successfully!\n", message.Key)
				}
			}
		}
	}()

	// 2) Fetch the latest version of the schema, or create a new one if it is the first
	schemaRegistryClient := srclient.CreateSchemaRegistryClient("http://localhost:8081")
	schema, err := schemaRegistryClient.GetLatestSchema(topic, false)
	if schema == nil {
		schemaBytes, err := ioutil.ReadFile("example/complexType.proto")
		if err != nil {
			panic(fmt.Sprintf("File not found %s", err))
		}

		schema, err = schemaRegistryClient.CreateSchema(topic, string(schemaBytes), srclient.Protobuf, false)
		if err != nil {
			panic(fmt.Sprintf("Error creating the schema %s", err))
		}
	}
	schemaIDBytes := make([]byte, 4)
	binary.BigEndian.PutUint32(schemaIDBytes, uint32(schema.ID()))

	// 3) Serialize the record using the schema provided by the client,
	// making sure to include the schema id as part of the record.
	newComplexType := ComplexType{ID: 1, Name: "Gopher"}
	value, _ := json.Marshal(newComplexType)
	native, _, _ := schema.Codec().NativeFromTextual(value)
	valueBytes, _ := schema.Codec().BinaryFromNative(nil, native)

	var recordValue []byte
	recordValue = append(recordValue, byte(0))
	recordValue = append(recordValue, schemaIDBytes...)
	recordValue = append(recordValue, valueBytes...)

	key, _ := uuid.NewUUID()
	p.Produce(&kafka.Message{
		TopicPartition: kafka.TopicPartition{
			Topic: &topic, Partition: kafka.PartitionAny},
		Key: []byte(key.String()), Value: recordValue}, nil)

	p.Flush(15 * 1000)

}
```

The protobuf schema looks like this and can be found in `example/complexType.proto`:
```
syntax = "proto3";

package example;

message ComplexType {
    int64 id = 1;
    string name = 2;
}
```

When I try to run this application, I get the following error message displayed:
```
>>> go run app_srclient.go
panic: Error creating the schema 422 : Either the input schema or one its references is invalid

goroutine 1 [running]:
main.main()
        <PATH>/app_srclient.go:55 +0x879
exit status 2
```

In advance, I'd like to thank anyone who could help out or provide examples to solve this issue!

**Comment by shivakumarss** [comment]
Hi @FredrikBakken  

1. You will have to compile your protobuf file using protobuf library reference, that will generate .go file.
    https://developers.google.com/protocol-buffers/docs/gotutorial

2. Using that generated .go file you have to create a object, and you cannot use 
    `newComplexType := ComplexType{ID: 1, Name: "Gopher"}`

3. Once the object is created use `out, err := proto.Marshal(object)` to get bytes of the object.

4. Then follow the wire format to publish the bytes to confluent.
     `https://docs.confluent.io/current/schema-registry/serdes-develop/index.html#wire-format`


Thanks
Shiva Kumar SS

**Comment by FredrikBakken** [comment]
Hi Shiva Kumar SS (@shivakumarss),

Thank you so much for your explanations!

I have tried a little bit more on this to get it to work, but I still seem to be getting the same error message. Added details below to showcase what changes I have made:

1. Compiled the `.proto` file to generate the `.go` file with: `protoc --go_out=. example/*.proto`. This created a new `.go` file within the ./example directory named `complexType.pb.go`.
2. Created an object by replacing the line: `newComplexType := ComplexType{ID: 1, Name: "Gopher"}` with `newComplexType := &example.ComplexType{Id: 1, Name: "Gopher"}`.
3. Got the object bytes by adding: `value, err := proto.Marshal(newComplexType)`
4. Not 100% sure about how to publish the bytes according to the definition by Confluent. Is it according to the schema details or the data (key-value) itself? I have tried read both the `complexType.proto` and `complexType.pb.go` into the `schemaBytes` variable.

After trying these suggestions I've also tried to debug the code itself a little bit more and it seems to be related to the process of creating a new schema (step 2 in the example). I am able to find the files without issues, but the following line returns an error: `schema, err = schemaRegistryClient.CreateSchema(topic, string(schemaBytes), srclient.Protobuf, false)`.

This is the latest version of the edited example code:
```
package main

import (
	"encoding/binary"
	"fmt"
	"io/ioutil"

	"google.golang.org/protobuf/proto"
	"<project-name>/example"

	"github.com/google/uuid"
	"github.com/riferrei/srclient"
	"gopkg.in/confluentinc/confluent-kafka-go.v1/kafka"
)

func main() {

	topic := "myTopicProto"

	// 1) Create the producer as you would normally do using Confluent's Go client
	p, err := kafka.NewProducer(&kafka.ConfigMap{"bootstrap.servers": "localhost"})
	if err != nil {
		panic(err)
	}
	defer p.Close()

	go func() {
		for event := range p.Events() {
			switch ev := event.(type) {
			case *kafka.Message:
				message := ev
				if ev.TopicPartition.Error != nil {
					fmt.Printf("Error delivering the message '%s'\n", message.Key)
				} else {
					fmt.Printf("Message '%s' delivered successfully!\n", message.Key)
				}
			}
		}
	}()

	// 2) Fetch the latest version of the schema, or create a new one if it is the first
	schemaRegistryClient := srclient.CreateSchemaRegistryClient("http://localhost:8081")
	schema, err := schemaRegistryClient.GetLatestSchema(topic, false)
	if schema == nil {
		schemaBytes, err := ioutil.ReadFile("example/complexType.proto")
		if err != nil {
			panic(fmt.Sprintf("File not found %s", err))
		}

		schema, err = schemaRegistryClient.CreateSchema(topic, string(schemaBytes), srclient.Protobuf, false)
		if err != nil {
			panic(fmt.Sprintf("Error creating the schema %s", err))
		}
	}
	schemaIDBytes := make([]byte, 4)
	binary.BigEndian.PutUint32(schemaIDBytes, uint32(schema.ID()))

	// 3) Serialize the record using the schema provided by the client,
	// making sure to include the schema id as part of the record.
	newComplexType := &example.ComplexType{Id: 1, Name: "Gopher"}
	value, err := proto.Marshal(newComplexType)
	valueBytes, _ := schema.Codec().BinaryFromNative(nil, value)

	var recordValue []byte
	recordValue = append(recordValue, byte(0))
	recordValue = append(recordValue, schemaIDBytes...)
	recordValue = append(recordValue, valueBytes...)

	key, _ := uuid.NewUUID()
	p.Produce(&kafka.Message{
		TopicPartition: kafka.TopicPartition{
			Topic: &topic, Partition: kafka.PartitionAny},
		Key: []byte(key.String()), Value: recordValue}, nil)

	p.Flush(15 * 1000)

}
```

**Comment by shivakumarss** [comment]
Hi @FredrikBakken 

I had a look at this API, but unfortunately this is not supported as of today.

<img width="813" alt="Screenshot 2020-09-15 at 10 40 37 PM" src="https://user-images.githubusercontent.com/32130187/93242630-bc0eb880-f7a4-11ea-9ad8-2f9cfebdbd4f.png">

Reference https://github.com/riferrei/srclient/blob/master/mockSchemaRegistryClient.go#L54


Regards,
Shiva Kumar SS

**Comment by dineshgowda24** [comment]
@FredrikBakken  were you able to get it working?
If you have a working example would be able to share?

**Comment by Kronmannen** [comment]
Had the same problem. The solution was to remove all new lines after reading the proto schema from file. Example from @FredrikBakken code.
`if schema == nil {
		schemaBytes, err := ioutil.ReadFile("example/complexType.proto")
		if err != nil {
			panic(fmt.Sprintf("File not found %s", err))
		}
                formattedSchema := strings.ReplaceAll(string(schemaBytes), "\n", "") // added this line
		schema, err = schemaRegistryClient.CreateSchema(topic, formattedSchema, srclient.Protobuf, false)
		if err != nil {
			panic(fmt.Sprintf("Error creating the schema %s", err))
		}
	}`

**Comment by ct-23** [comment]
@Kronmannen 
Sounds like you have a UTF-8 byte-order-marker (BOM) in your proto-file.

**Comment by ideasculptor** [comment]
Did you ever get this working?  The code you provided definitely doesn't look correct to me. The bytes outputted by proto.Marshal() are the final binary form of the protobuf.  There is no reason to call `schema.Codec().BinaryFromNative(nil, bytes)` when serializing a protobuf.  That's an Avro-specific function.  In fact, the codec variable is an instance of goavro.Codec.

However, according to the confluent documentation (https://docs.confluent.io/current/schema-registry/serdes-develop/index.html#wire-format ), the wire format for serialized protobufs includes an extra field after the schema ID.  Because more than one protobuf message type can be declared in a single schema file and because they can be nested, you have to provide an array of message indexes which specifies the actual message type you are looking for. The array is encoded as the length of the array, followed by the values within it. In the case where there is only one message declared in the schema, you provide an array with the index 0 - [0], written as 1,0.  But if the top level message has 2 messages nested within it and we are serializing the 2nd of those, then you need to provide the array [0, 1], written as 2,0,1 - which is an array of length 2 representing the second embedded message (index=1) of the first message (index=0) type in the schema.  To top it off, those all of those values are to be ZigZag encoded. (https://pkg.go.dev/google.golang.org/protobuf@v1.27.1/encoding/protowire#EncodeZigZag ).  Additionally, there is a special case for instances where you are using the first message in the schema.  Instead of an array of length 1 with value 0, you can just send the value 0.  A ZigZag encoded 0 is 2 bytes long, each with value 0.

I'm still trying to generate a working example, but I'll post one here if I ever get one functional.

**Comment by ideasculptor** [comment]
Here's a working Deserializer, too:

```
package kafka

import (
	"encoding/binary"
	"fmt"

	"github.com/riferrei/srclient"
	"google.golang.org/protobuf/proto"
)

type ProtobufDeserializer struct {
	client      SchemaRegistryClient
	topic       string
	valueSchema *srclient.Schema
}

func NewProtobufDeserializer(schemaRegistryClient SchemaRegistryClient, topic string) *ProtobufDeserializer {

	valueSchema, err := schemaRegistryClient.GetLatestSchema(topic, false)
	if err != nil {
		panic(fmt.Sprintf("Error fetching the value schema %s", err))
	}

	return &ProtobufDeserializer{
		client:      schemaRegistryClient,
		topic:       topic,
		valueSchema: valueSchema,
	}
}

func (ps *ProtobufDeserializer) Deserialize(bytes []byte, pb proto.Message) error {
	// decode the number of elements in the array of message indexes
	arrayLen, bytesRead := binary.Varint(bytes[5:])
	if bytesRead <= 0 {
		err := fmt.Errorf("Unable to decode message index array")
		return err
	}
	totalBytesRead := bytesRead
	msgIndexArray := make([]int64, arrayLen)
	// iterate arrayLen times, decoding another varint
	for i := int64(0); i < arrayLen; i++ {
		idx, bytesRead := binary.Varint(bytes[5+totalBytesRead:])
		if bytesRead <= 0 {
			err := fmt.Errorf("Unable to decode value in message index array")
			return err
		}
		totalBytesRead += bytesRead
		msgIndexArray[i] = idx
	}
	// we have msgIndexArray populated.  If we had a parsed schema, we could
	// look up the actual message type with that.  Or use it as a key into a
	// table of closures, each of which returns proto.Message of the correct
	// type.  Then unmarshall into that and return it. User can cast proto.Message
	// to the actual type safely. But for now, we simply deserialize into the
	// proto that was passed in.
	err := proto.Unmarshal(bytes[5+totalBytesRead:], pb)
	if err != nil {
		fmt.Printf("failed deserialize: %v", err)
		return err
	}
	return nil
}

func (ps *ProtobufDeserializer) GetTopic() *string {
	return &ps.topic
}
```

**Comment by jacobpeebles** [comment]
Hey guys. did anyone try the code above? the writer seems to be partially working(but confluent UI does not render all the values), but the consumer code, unfortunately, doesn't seem to work. Maybe someone has a more complete version?

**Comment by ideasculptor** [comment]
I'm just stepping away from my desk, but I use that code (or whatever it has evolved into) quite a bit.  When I get back this afternoon, I'll make sure that whatever the most recent changes are are reflected above.  I copied that stuff in here very eary in the process so it's entirely possible that there are bug fixes that haven't been incorporated.

Note that if you run the most recent confluent platform in docker containers, the confluent UI should display fully parsed messages correctly.  Confluent cloud control center has not been updated to render protobufs correctly, even when they are encoded correctly, though streams, ksqldb, and connectors will correctly parse them. So you cannot count on the confluent cloud control center to show you that things are being encoded correctly.  You've got to send to a local instance of confluent 6.2 or better - but I found that their docker-compose file works great for doing that.

**Comment by jacobpeebles** [comment]
@ideasculptor thank you for that, I'm tagging in @renevall who is equally interested in this (we work together).

**Comment by ideasculptor** [comment]
Sorry for the awkwardness of the exchange.  The company I'm working for wants to open source this work, but they don't really have a process for doing so, and it hasn't really been my highest priority to work my way through that.  I need to get our code into a github repo and then actually intend to write it up on medium, but for now, you'll have to live with copy and paste here.  Sorry.

**Comment by jacobpeebles** [comment]
@ideasculptor no need to apologize! Responding is already enough, thanks so much. Any guidance you can provide will help us a great deal. @renevall

**Comment by ideasculptor** [comment]
Here's the serializer

```
import (
	"encoding/binary"
	"encoding/json"
	"fmt"

	"github.com/riferrei/srclient"
	"google.golang.org/protobuf/proto"
	"google.golang.org/protobuf/reflect/protoreflect"
)

// Simplified interface for srclient.SchemaRegistryClient
type SchemaRegistryClient interface {
	GetSchema(schemaID int) (*srclient.Schema, error)
	GetLatestSchema(subject string) (*srclient.Schema, error)
	SetCredentials(username string, password string)
}

// SchemaResolver is an interface that can resolve a schema registry schema from
// destination topic and the entity being serialized. It is analogous to the
// SubjectNameStrategy in confluent clients, but also performs the registry schema
// lookup.
type SchemaResolver interface {
	ResolveSchema(topic string, msg proto.Message) (*srclient.Schema, error)
}

// SerializationType is a type alias for representing Key and Value serialization
// types
type SerializationType int

const (
	KeySerialization SerializationType = iota
	ValueSerialization
)

// TopicNameSchemaResolver is an instance of SchemaResolver which uses the topic
// name as the subject when looking up schema via schema registry
type TopicNameSchemaResolver struct {
	serializationType SerializationType
	client            SchemaRegistryClient
}

// NewTopicNameSchemaResolver is a constructor for TopicNameSchemaResolver.
// Receives a SchemaRegistryClient, which should have caching enabled as schema
// is resolved for every serialization performed by a serializer, as well as a
// SerializationType, which specifies whether to resolve a key or value schema
// for the topic
func NewTopicNameSchemaResolver(
	client SchemaRegistryClient,
	serializationType SerializationType,
) *TopicNameSchemaResolver {
	return &TopicNameSchemaResolver{
		serializationType: serializationType,
		client:            client,
	}
}

// ResolveSchema using the TopicNameStrategy, which uses the topic name as the
// subject. Ensure the schema registry client that was pass to the constructor
// has caching enabled or this will be slow to execute
func (ls *TopicNameSchemaResolver) ResolveSchema(
	topic string,
	msg proto.Message,
) (*srclient.Schema, error) {
	if msg == nil {
		return nil, fmt.Errorf(
			"cannot resolve schema for nil message and topic: %s",
			topic,
		)
	}
	return ls.client.GetLatestSchema(ls.constructSubject(topic))
}

func (ls *TopicNameSchemaResolver) constructSubject(topic string) string {
	if ls.serializationType == KeySerialization {
		return topic + "-key"
	}
	return topic + "-value"
}

// SerializationFunc is a type that describes the function that is ultimately
// used to serialize a protobuf.
type SerializationFunc = func([]byte, proto.Message) ([]byte, error)

// InitializationFunc is a type that describes a function to be used to initialize
// a messsage prior to serialization.
type InitializationFunc = func(proto.Message)

// ProtobufSerializer is an instance of Serializer which serializes protobufs
// according to the confluent schema registry line protocol
type ProtobufSerializer struct {
	schemaResolver SchemaResolver
	headerCache    map[int]map[string][]byte
	marshal        SerializationFunc
	initialize     InitializationFunc
}

// VTMarshal is an interface that will be satisfied by any protobuf that has had
// the protoc-gen-go-vtproto plugin applied to it with the marshal and size
// options. If a proto satisfies this interface, the Marshal function will apply
// the much more efficient MarshalToVT serialization
type VTMarshal interface {
	SizeVT() int
	MarshalToVT(data []byte) (int, error)
}

// Marshal is a wrapper around proto which will use MarshalToVT if that
// method is available in the proto, which serializes much more rapidly
// than the reflection-based proto.Marshal
func Marshal(header []byte, msg proto.Message) ([]byte, error) {
	switch m := msg.(type) {
	case VTMarshal:
		// Whenever available, use VTMarshal for MUCH faster serialization
		size := len(header) + m.SizeVT()
		buffer := make([]byte, 0, size)
		buffer = append(buffer, header...)
		bytesWritten, err := m.MarshalToVT(buffer[len(header):])
		return buffer[:len(header)+bytesWritten], err
	default:
		bytes, err := proto.Marshal(msg)
		header = append(header, bytes...)
		return header, err
	}
}

// NewProtobufSerializer is a constructor function for ProtobufSerializer.
// Receives a SchemaResolver as parameter.
func NewProtobufSerializer(
	schemaLookupStrategy SchemaResolver,
	initialize InitializationFunc,
	serializationFunc ...SerializationFunc,
) *ProtobufSerializer {
	// marshall via Marshal by default
	marshal := Marshal
	if len(serializationFunc) > 0 {
		marshal = serializationFunc[0]
	}

	return &ProtobufSerializer{
		schemaResolver: schemaLookupStrategy,
		headerCache:    make(map[int]map[string][]byte),
		marshal:        marshal,
		initialize:     initialize,
	}
}

// Serialize encodes a protobuf for the specified topic.
func (ps *ProtobufSerializer) Serialize(
	topic string,
	thing interface{},
) ([]byte, error) {
	if thing == nil {
		// It is legitimate to serialize nil to nil
		return nil, nil
	}

	// ensure thing is a protobuf
	var msg proto.Message = nil
	switch t := thing.(type) {
	case proto.Message:
		msg = t
	default:
		return nil, fmt.Errorf(
			"serialization target must be a protobuf. Got '%v'",
			t,
		)
	}

	schema, err := ps.schemaResolver.ResolveSchema(topic, msg)
	if err != nil {
		return nil, err
	}

	if ps.initialize != nil {
		ps.initialize(msg)
	}

	// avoid recomputing message indexes and encoding header on every request
	buf := ps.lookupHeader(schema.ID(), msg)
	if buf == nil {
		msgIndexes := computeMessageIndexes(msg.ProtoReflect().Descriptor(), 0)
		buf = encodePayloadHeader(schema.ID(), msgIndexes)

		ps.storeHeader(schema.ID(), msg, buf)
	}

	bytes, err := ps.marshal(buf, msg)
	if err != nil {
		return nil, err
	}
	return bytes, nil
}

func (ps *ProtobufSerializer) lookupHeader(id int, msg proto.Message) []byte {
	messageTypes := ps.headerCache[id]
	if messageTypes == nil {
		return nil
	}
	return messageTypes[string(msg.ProtoReflect().Descriptor().FullName())]
}

func (ps *ProtobufSerializer) storeHeader(
	id int,
	msg proto.Message,
	header []byte,
) {
	// populate the cache of pre-encoded headers
	messageTypes := ps.headerCache[id]
	if messageTypes == nil {
		messageTypes = make(map[string][]byte)
		ps.headerCache[id] = messageTypes
	}
	messageTypes[string(msg.ProtoReflect().Descriptor().FullName())] = header
}

// protobuf line protocol for kafka has protocol version number (0 as byte),
// then schema id (uint32), then an array of message indexes that eventually
// identifies exactly which message within a schema file the proto in question
// actually is. If proto is 3rd message nested within message that is 4th
// message within first message in schema file, array would be [0, 3, 2].
// First message in schema is [0]
func computeMessageIndexes(
	descriptor protoreflect.Descriptor,
	count int,
) []int {
	index := descriptor.Index()
	switch v := descriptor.Parent().(type) {
	case protoreflect.FileDescriptor:
		// parent is FileDescriptor, we reached the top of the stack, so we are
		// done. Allocate an array large enough to hold count+1 entries and
		// populate first value with index
		msgIndexes := make([]int, count+1)
		msgIndexes[0] = index
		return msgIndexes[0:1]
	default:
		// parent is another MessageDescriptor.  We were nested so get that
		// descriptor's indexes and append the index of this one
		msgIndexes := computeMessageIndexes(v, count+1)
		return append(msgIndexes, index)
	}
}

// encodePayloadHeader writes the line protocol header for protobufs, which
// consists of the protocol version (0 as byte), the schema id (uint32),
// followed by the length of the message index array (variable, zigzag
// encoded) and then each element of that array (variable, zigzag encoded).
func encodePayloadHeader(schemaId int, msgIndexes []int) []byte {
	// allocate buffer with 5 bytes for version and schemaId, and sufficient
	// space for msgIndexes in zigzag encoding plus length of array
	buf := make([]byte, 5+((1+len(msgIndexes))*binary.MaxVarintLen64))

	// write version of protobuf line protocol
	buf[0] = byte(0)

	// write schema id
	binary.BigEndian.PutUint32(buf[1:5], uint32(schemaId))
	length := 5

	// write length of indexes array
	length += binary.PutVarint(buf[length:], int64(len(msgIndexes)))

	// Now write each array value
	for _, element := range msgIndexes {
		length += binary.PutVarint(buf[length:], int64(element))
	}

	return buf[0:length]
}

type StringSerializer struct {
}

func (s *StringSerializer) Serialize(topic string, thing interface{}) ([]byte, error) {
	return []byte(thing.(string)), nil
}

type JsonSerializer struct {
}

func (s *JsonSerializer) Serialize(topic string, thing interface{}) ([]byte, error) {
	return json.Marshal(thing)
}
```

**Comment by ideasculptor** [comment]
and here's the deserializer:

```
import (
	"encoding/binary"
	"fmt"

	"google.golang.org/protobuf/proto"
	"google.golang.org/protobuf/reflect/protoreflect"
)

// ProtobufResolver is an interface which can resolve a protobuf
// MessageDescriptor from topic name and the info contained in the
// message header and instantiate an instance of the message described
// by the MessageDescriptor
type ProtobufResolver interface {
	ResolveProtobuf(topic *string, schemaId uint32, msgIndexes []int64) (proto.Message, error)
}

// ProtobufRegistry is the minimum interface of protoregistry.Types registry
// needed to resolve MessageType from topic name (plus a registration function,
// for convenience)
type ProtobufRegistry interface {
	RangeMessages(f func(protoreflect.MessageType) bool)
	FindMessageByName(message protoreflect.FullName) (protoreflect.MessageType, error)
}

// DeserializationType is a type alias for representing Key and Value
// deserialization types
type DeserializationType int

const (
	KeyDeserialization DeserializationType = iota
	ValueDeserialization
)

// ProtoregistryTopicNameProtobufResolver is a concrete implementation of
// ProtobufResolver which uses topic name in combination with protoregistry
// to resolve a protoreflect.MessageType that can then be used to instantiate
// a new instance of that type
type ProtoregistryTopicNameProtobufResolver struct {
	deserializationType DeserializationType
	registry            ProtobufRegistry
}

// NewProtoregistryTopicNameProtobufResolver is a constructor
func NewProtoregistryTopicNameProtobufResolver(
	registry ProtobufRegistry,
	deserializationType DeserializationType,
) *ProtoregistryTopicNameProtobufResolver {
	return &ProtoregistryTopicNameProtobufResolver{
		deserializationType: deserializationType,
		registry:            registry,
	}
}

// ResolveProtobuf uses topic name in combination with protorregistry to find
// protoreflect.MessageType that matches.  It then instantiates a new instance ot
// that type and returns it.
func (reg *ProtoregistryTopicNameProtobufResolver) ResolveProtobuf(
	topic *string,
	schemaId uint32,
	msgIndexes []int64,
) (proto.Message, error) {
	var mt protoreflect.MessageType
	reg.registry.RangeMessages(func(messageType protoreflect.MessageType) bool {
		if string(messageType.Descriptor().Name()) == *topic {
			mt = messageType
			return false
		}
		return true
	})
	if mt != nil {
		pb := mt.New()
		return pb.Interface(), nil
	}
	return nil, fmt.Errorf("Unable to find MessageType for topic: %s", *topic)
}

// DeserializationFunc is a type that describes the function that is ultimately used to
// deserialize a protobuf.
type DeserializationFunc = func([]byte, proto.Message) error

// ProtobufDeserializer hydrates a []byte into a Protobuf which is resolved via
// a ProtobufResolver
type ProtobufDeserializer struct {
	protobufResolver ProtobufResolver
	unmarshal        DeserializationFunc
}

// VTUnmarshal is an inerface satisfied by any protobuf that has been built with
// the protoc-gen-go-vtproto tool to generate an efficient unmarshal method
type VTUnmarshal interface {
	UnmarshalVT(data []byte) error
}

// Unmarshal is a wrapper around proto.Unmarshal which will use UnmarshalVT when
// deserializing any proto that has been modified by protoc-gen-go-vtproto with
// the unmarshal option
func Unmarshal(bytes []byte, msg proto.Message) error {
	switch m := msg.(type) {
	case VTUnmarshal:
		return m.UnmarshalVT(bytes)
	default:
		return proto.Unmarshal(bytes, msg)
	}
}

// NewProtobufDeserializer is a constructor that takes a SchemaRegistryClient
// and a ProtobufResolver, which are used to determine schema and resolve an
// empty protobuf that data can be unmarshalled into.
func NewProtobufDeserializer(
	protobufResolver ProtobufResolver,
	deserializationFunc ...DeserializationFunc,
) *ProtobufDeserializer {
	// marshall via Marshal by default
	unmarshal := Unmarshal
	if len(deserializationFunc) > 0 {
		unmarshal = deserializationFunc[0]
	}

	return &ProtobufDeserializer{
		protobufResolver: protobufResolver,
		unmarshal:        unmarshal,
	}
}

// Deserialize hydrates an []byte into a protobuf instance which is resolved
// from the topic name and schemaId by the ProtobufResolver
func (ps *ProtobufDeserializer) Deserialize(
	topic *string,
	bytes []byte,
) (interface{}, error) {
	if bytes == nil {
		return nil, nil
	}

	bytesRead, schemaId, msgIndexes, err := decodeHeader(topic, bytes)

	// resolve an empty instance of correct protobuf
	pb, err := ps.protobufResolver.ResolveProtobuf(topic, schemaId, msgIndexes)
	if err != nil {
		return nil, err
	}

	// unmarshal into the empty protobuf after the header in bytes
	err = ps.unmarshal(bytes[bytesRead:], pb)
	if err != nil {
		return nil, err
	}
	return pb, nil
}

func decodeHeader(
	topic *string,
	bytes []byte,
) (totalBytesRead int, schemaId uint32, msgIndexes []int64, err error) {

	if bytes[0] != byte(0) {
		err = fmt.Errorf("invalid protobuf wire protocol.  Received version: %v", bytes[0])
		return
	}
	// we should actually validate the schemaId against the topic in some way, but note that it
	// only needs to be compatible with the latest schema, not equal to it.
	schemaId = binary.BigEndian.Uint32(bytes[1:5])

	// decode the number of elements in the array of message indexes
	arrayLen, bytesRead := binary.Varint(bytes[5:])
	if bytesRead <= 0 {
		err = fmt.Errorf("Unable to decode message index array")
		return
	}
	totalBytesRead = 5 + bytesRead
	msgIndexes = make([]int64, arrayLen)
	// iterate arrayLen times, decoding another varint
	for i := int64(0); i < arrayLen; i++ {
		idx, bytesRead := binary.Varint(bytes[totalBytesRead:])
		if bytesRead <= 0 {
			err = fmt.Errorf("Unable to decode value in message index array")
			return
		}
		totalBytesRead += bytesRead
		msgIndexes[i] = idx
	}
	return
}

type StringDeserializer struct{
}

func (s *StringDeserializer) Deserialize(topic *string, bytes []byte) (interface{}, error) {
	return string(bytes), nil
}

type JsonDeserializer struct{
	// because json.Unmarshal needs an actual instance to deserialize into,
	// delegate the work to the provided unmarshal function
	unmarshal func(topic *string, data []byte) (interface{}, error)
}

func NewJsonDeserializer(unmarshal func(topic *string, data []byte) (interface{}, error)) *JsonDeserializer {
	return &JsonDeserializer{
		unmarshal: unmarshal,
	}
}

func (s *JsonDeserializer) Deserialize(topic *string, bytes []byte) (interface{}, error) {
	return s.unmarshal(topic, bytes)
}
```

**Comment by ideasculptor** [comment]
Note that the code here does not do any parsing of protobufs at runtime - Instead, it passes the write protocol header info to a delegate and the delegate returns an empty instance of the correct type which the unmarshal function will then populate.  One could write a delegate that actually parses raw schema syntax fetched from the schema registry, if necessary, but our use cases are simpler than that and it is easy enough to look up the message type in the schema registry by name, greatly simplifying the code.  Also, the code supports (but does not require) the VTMarshal protoc plugin for high performance serialization and deserialization.

**Comment by ideasculptor** [comment]
One last thing - the wire protocol has 3 fields - the version (1 byte), the schemaId (4 bytes, network order), and then the array of indexes to a particular message type, where the array is written as a length n and then n integers, zigzag encoded.  So the first message in a schema would always be sent as 1,0 (length = 1, value = 0, which would be zigzag encoded as 2,0 if you are looking at raw bytes in a buffer), but the wire protocol allows that to be shortened to sending just a 0 since a naive parser would parse that correctly anyway (read a 0 length and then don't read any more because the length is 0).  This implementation NEVER uses the shortcut, always writing at least 2 bytes.  It just seems like an unnecessary complication that prevents the parsing of a single byte but could lead to bugs or confusion.  

Additionally, the python implementation of the registry client is broken and doesn't handle message indexes correctly, anyway (it doesn't use zigzag encoding correctly, if memory serves), so if you are using the python client anywhere, you can only use the python client because it isn't compatible with the java client OR this client.  This code is confirmed to be compatible with the java client.  For some crazy reason, confluent doesn't think that fixing the python client warrants bumping the version of the wire protocol up to 1 from 0, so when they do fix the python client, stuff will just break depending on if you have messages serialized with the broken client, and there will be no way to detect the issue, since messages encoded with the fixed client will have the same wire protocol version number as messages encoded with the broken client.  Basically, if you are using python, caveat emptor

**Comment by bigkraig** [comment]
@ideasculptor this was very helpful & thanks a lot.

For others who are trying to leverage proto schemas, this `ProtobufResolver` implementation allows me (so far in my testing) to parse the returned Proto from the schema registry and match it against the generated .proto loaded into my consumer.

```
// SchemaRegistryProtobufResolver
type SchemaRegistryProtobufResolver struct {
	schemaRegistry      SchemaRegistryClient
	protobufRegistry    ProtobufRegistry
	deserializationType DeserializationType
}

// NewSchemaRegistryProtobufResolver
func NewSchemaRegistryProtobufResolver(
	schemaRegistry SchemaRegistryClient,
	protobufRegistry ProtobufRegistry,
	deserializationType DeserializationType,
) *SchemaRegistryProtobufResolver {
	return &SchemaRegistryProtobufResolver{
		schemaRegistry:      schemaRegistry,
		protobufRegistry:    protobufRegistry,
		deserializationType: deserializationType,
	}
}

// This should probably exist in srclient
func (reg *SchemaRegistryProtobufResolver) parseSchema(schemaId int) (*desc.FileDescriptor, error) {
	schema, err := reg.schemaRegistry.GetSchema(schemaId)
	if err != nil {
		return nil, err
	}

	if *(schema.SchemaType()) != srclient.Protobuf {
		return nil, fmt.Errorf("schema %v is not a Protobuf schema", schemaId)
	}

	parser := protoparse.Parser{
		Accessor: func(filename string) (io.ReadCloser, error) {
			return io.NopCloser(strings.NewReader(filename)), nil
		},
	}

	fileDescriptors, err := parser.ParseFiles(schema.Schema())
	if err != nil {
		return nil, err
	}

	if len(fileDescriptors) != 1 {
		return nil, fmt.Errorf("unexpected schema from schema registry")
	}

	return fileDescriptors[0], nil
}

// ResolveProtobuf
func (reg *SchemaRegistryProtobufResolver) ResolveProtobuf(
	schemaId int,
	msgIndexes []int,
) (proto.Message, error) {

	fileDescriptor, err := reg.parseSchema(schemaId)
	if err != nil {
		return nil, err
	}

	msg := resolveDescriptorByIndexes(msgIndexes, fileDescriptor)

	var mt protoreflect.MessageType
	reg.protobufRegistry.RangeMessages(func(messageType protoreflect.MessageType) bool {
		if string(messageType.Descriptor().Name()) == msg.GetName() {
			mt = messageType
			return false
		}
		return true
	})
	if mt != nil {
		pb := mt.New()
		return pb.Interface(), nil
	}
	return nil, fmt.Errorf("unable to find MessageType for messageIndex %v inside schema %v", msgIndexes, schemaId)
}

func resolveDescriptorByIndexes(msgIndexes []int, descriptor desc.Descriptor) desc.Descriptor {
	if len(msgIndexes) == 0 {
		return descriptor
	}

	index := msgIndexes[0]
	msgIndexes = msgIndexes[1:]

	switch v := descriptor.(type) {
	case *desc.FileDescriptor:
		return resolveDescriptorByIndexes(msgIndexes, v.GetMessageTypes()[index])
	case *desc.MessageDescriptor:
		if len(msgIndexes) > 0 {
			return resolveDescriptorByIndexes(msgIndexes, v.GetNestedMessageTypes()[index])
		} else {
			return v.GetNestedMessageTypes()[index]
		}
	default:
		fmt.Printf("no match: %v\n", v)
		return nil
	}
}
```

example usage

```
	schemaRegistryClient := srclient.CreateSchemaRegistryClient(lib.SchemaRegistryUrl)
	schemaRegistryClient.SetCredentials(lib.SchemaRegistryUsername, lib.SchemaRegistryPassword)
	protobufResolver := lib.NewSchemaRegistryProtobufResolver(schemaRegistryClient, protoregistry.GlobalTypes, lib.ValueDeserialization)
	deserializer := lib.NewProtobufDeserializer(protobufResolver)

	for {
		msg, err := c.ReadMessage(60 * time.Second)
		if err == nil {
			value, err := deserializer.Deserialize(msg.Value)
			if err != nil {
				sugar.Fatal(err)
			}

			switch v := value.(type) {
			case *schema.SampleRecord:
				sugar.Infof("Here is the sample record: (%s), headers (%v)", v.String(), msg.Headers)
			case *schema.OtherRecord_NestedRecord:
				sugar.Infof("Here is the nested record: (%s), headers (%v)", v.String(), msg.Headers)
			case *schema.OtherRecord:
				sugar.Infof("Here is the other record: (%s), headers (%v)", v.String(), msg.Headers)
			default:
				sugar.Infof("unrecognized message type: %T", v)
			}
		} else {
			sugar.Infof("Error consuming the message: %v (%v)", err, msg)
		}
	}
```

```
syntax = "proto3";
package com.mycorp.mynamespace;

message SampleRecord {
  int32 my_field1 = 1;
  double my_field2 = 2;
  string my_field3 = 3;
  string my_field4 = 4;
}
message OtherRecord {
  string field = 1;

  message NestedRecord {
    string nestedfield = 1;
  }
}

```

**Comment by ericliu1990** [comment]
Hello @bigkraig 
thank u for sharing the sample code, im trying the code but seems the type of protobufResolver does not match the param type of NewProtobufDeserializer, could u pls share the full solution ? thank u~
```
protobufResolver := NewSchemaRegistryProtobufResolver(schemaRegistryClient, protoregistry.GlobalTypes, ValueDeserialization)
	deserializer := NewProtobufDeserializer(protobufResolver)
```

**Comment by rverma-nsl** [comment]
@bigkraig facing same issues, can you include the packages too in the example.

**Comment by rverma-nsl** [comment]
@ericliu1990 I am able to use this with the above code snippet and slight change, have a look here https://github.com/rverma-nsl/kafka-schemaregistry-protobuf. Although onething which was confusing to me is that the local protobuf registry is creating registry entry by name whereas confluent schema registry is by schemaID. I need to create a static map to hold this transformation. However I think if you create your protobuf files as schemaID.proto that won't be required.

**Comment by ericliu1990** [comment]
thanks @rverma-nsl 
i have tried your solution, it looks good, thank u
but this error was encountered when i consume the event from kafka and deserialize it 
`invalid protobuf wire protocol.  Received version: 10` any idea ?

**Comment by bigkraig** [comment]
> thanks @rverma-nsl
> i have tried your solution, it looks good, thank u
> but this error was encountered when i consume the event from kafka and deserialize it
> `invalid protobuf wire protocol. Received version: 10` any idea ?

Try adding the change in green. I had noticed a bug in decodeHeader when dealing with messages encoded with the Python library, if this is that same issue this is how I had fixed it.

<img width="794" alt="image" src="https://user-images.githubusercontent.com/508403/173083186-ca0fd9db-19ec-4a4e-b605-d29077f4744f.png">

**Comment by ericliu1990** [comment]
Hello @bigkraig 
thanks for the reply, I think my code returned at the very beginning of the decode header function :(
<img width="531" alt="image" src="https://user-images.githubusercontent.com/8623810/173094735-e9922190-a48f-4b7f-a1fa-da211258819a.png">

**Comment by bigkraig** [comment]
short on time this morning folks but I put a PR up with an example of the producer https://github.com/riferrei/srclient/pull/85

**Comment by AtakanColak** [comment]
Closing as per comment on https://github.com/riferrei/srclient/issues/16#issuecomment-1218278323
